US07884210B2
{2-[3-(3-Methyl-but-2-enyl)-3-(trans-4-methyl-cyclohexyl)-ureido]-thiazol-5-ylsulfanyl}-acetic acid
Prepared as described for the synthesis of [2-(3-cyclohexyl-3-phenethyl-ureido)-thiazol-5-ylsulfanyl]-acetic acid, from 4-trans-methyl-cyclohexylamine hydrochloride, 3-methyl-but-2-enal and 2-amino-thiazol-5-ylsulfanyl)-acetic acid ethyl ester. The hydrochloride was added one equivalent DIPEA prior to the reaction.

reactant | [2-(3-cyclohexyl-3-phenethyl-ureido)-thiazol-5-ylsulfanyl]-acetic acid | C1(CCCCC1)N(C(NC=1SC(=CN1)SCC(=O)O)=O)CCC1=CC=CC=C1 | C20H25N3O3S2
reactant | 3-methyl-but-2-enal | CC(=CC=O)C | C5H8O
reactant | hydrochloride | Cl | ClH
reactant | DIPEA | one equivalent | CCN(C(C)C)C(C)C | C8H19N
solvent | acetic acid ethyl ester | C(C)OC(C)=O | C4H8O2
product | {2-[3-(3-Methyl-but-2-enyl)-3-(trans-4-methyl-cyclohexyl)-ureido]-thiazol-5-ylsulfanyl}-acetic acid | CC(=CCN(C(NC=1SC(=CN1)SCC(=O)O)=O)[C@@H]1CC[C@H](CC1)C)C | C18H27N3O3S2
